US08895733B2
Intermediate 90: 4-Amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazine-2-carbonitrile
A mixture of 4-amino-6-phenylamino-[1,3,5]triazine-2-carbonitrile (prepared in an analogous manner to Intermediate 5, 100 mg, 470 μmol), 1-bromo-2-methoxyethane (50 μl, 0.52 mmol) and potassium carbonate 130 mg, 0.94 mmol) in DMF (5 ml) was heated to 100 C and stirred 3 h. The mixture was cooled to room temperature, diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated under vacuum to give the crude product which was used without further purification (400 mg, >100%, contains DMF). Method C HPLC-MS: MH+ requires m/z=271. Found: m/z=271, Rt=1.23 min (52%).

reactant | 4-amino-6-phenylamino-[1,3,5]triazine-2-carbonitrile | NC1=NC(=NC(=N1)NC1=CC=CC=C1)C#N | C10H8N6
reactant | 1-bromo-2-methoxyethane | 0.52 mmol, 50 μl | BrCCOC | C3H7BrO
reactant | potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-6-[(2-methoxy-ethyl)-phenyl-amino]-[1,3,5]triazine-2-carbonitrile | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)CCOC)C#N | C13H14N6O
